data/oMe_Silver.jsonl
{"reaction_id": "NR-145_1-C(C)(C)C_2-c1ccccc1_3-CC","name": "Michaelis-Arbuzov Reaction","level": "medium","reactants_smiles": ["[CH](Br)(C(C)(C)C)(c1ccccc1)","P(OCC)(OCC)(OCC)"],"products_smiles": ["P(=O)(OCC)(OCC)[CH](C(C)(C)C)(c1ccccc1)"],"conditions": "","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](OCC)(OCC)(OCC)[CH](C(C)(C)C)(c1ccccc1).[Br-]","rationale": "The lone pair on phosphorus attacks the electrophilic carbon bearing bromine, favored by the polarizable P center and the good leaving group ability of bromide, forming a phosphonium salt intermediate."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "P(=O)(OCC)(OCC)[CH](C(C)(C)C)(c1ccccc1)","rationale": "Intramolecular rearrangement occurs as an alkyl group migrates from oxygen to phosphorus, driven by the thermodynamically favorable formation of the strong P=O bond and facilitated by bromide acting as a leaving group."}],"description": "In the Michaelis–Arbuzov reaction, trialkyl phosphite attacks an alkyl halide via nucleophilic substitution, forming a phosphonium salt. This intermediate undergoes rearrangement with halide displacement to yield the phosphonate ester, driven by strong P=O bond formation and good leaving group ability of halide."}
{"reaction_id": "NR-135_1-c1ccc(OC)cc1_2-c1ccccc1_3-Cl_4-C","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)(c1ccccc1)=C(Cl)C(=O)(C)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(c1ccc(OC)cc1)(c1ccccc1)=C(Cl)C(O)(C)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccccc1)=C(Cl)C(=[O+][Ce-](Cl)(Cl)Cl)(C)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccccc1)=C(Cl)C(O[Ce-](Cl)(Cl)Cl)(C)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(c1ccccc1)=C(Cl)C(O)(C)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
{"reaction_id": "NR-044_1-c1ccc(F)cc1_2-C=CC_3-CC_4-CC_5-CC(C)(C)C_6-c1ccccc1C","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](c1ccc(F)cc1)(C=CC)C(CC)(CC)[N+](CC(C)(C)C)(c1ccccc1C)[O-]"],"products_smiles": ["C(c1ccc(F)cc1)(C=CC)=C(CC)(CC)","O[N](CC(C)(C)C)(c1ccccc1C)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(F)cc1)(C=CC)=C(CC)(CC).O[N](CC(C)(C)C)(c1ccccc1C)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
